US04936892
200 g (0.88 mol) of 2-chloro-6-fluoro-4-trifluoromethylphenylhydrazine and 151 g (0.88 mol) of ethyl ethoxymethylenecyanoacetate in 400 ml of ethanol are heated to the reflux temperature for 30 hours, the mixture is then concentrated to approximately half of the volume and cooled and the precipitate thus obtained is filtered off, washed with a little cold ethanol and dried. 250 g (81% of theory) of ethyl 5-amino-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazol-4-yl carboxylate of melting point 147°-149° C. are obtained.

reactant | 2-chloro-6-fluoro-4-trifluoromethylphenylhydrazine | 0.88 mol, 200 g | ClC1=C(C(=CC(=C1)C(F)(F)F)F)NN | C7H5ClF4N2
reactant | ethyl ethoxymethylenecyanoacetate | 0.88 mol, 151 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | ethyl 5-amino-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazol-4-yl carboxylate | 250 g, 81% | NC1=C(C=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl)C(=O)OCC | C13H10ClF4N3O2
